US04018922
25.3 g (1.1 mole) of sodium dissolved in 464.8 g (4 mole) of heptyl alcohol was heated to 150° C and 54 g (0.49 mole) of 3-chloropropionic acid were added thereto dropwise with stirring. The mixture was heated for a further 2 hours and a precipitate appeared. The mixture was cooled and 1.5 liters of water were added. The mixture was extracted with ether and the aqueous phase was acidified with concentrated sulfuric acid. The mixture was extracted with ether and the ether phase was washed with water, dried and was concentrated. The residue was rectified to obtain 49 g (52% yield) of 3-heptyloxy-propionic acid as a colorless oil boiling at 165° C at 15 mm Hg and having a refractive index nD22 = 1.436.

reactant | sodium | 1.1 mole, 25.3 g | [Na] | Na
reactant | heptyl alcohol | 4 mole, 464.8 g | C(CCCCCC)O | C7H16O
reactant | 3-chloropropionic acid | 0.49 mole, 54 g | ClCCC(=O)O | C3H5ClO2
solvent | water | 1.5 liters | O | H2O
product | 3-heptyloxy-propionic acid | 49 g, 52% yield | C(CCCCCC)OCCC(=O)O | C10H20O3
